Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hand pain
 
Major Surgical or Invasive Procedure:
bedside I&D or right hand abscess

 
History of Present Illness:
Mr. ___ is a ___ male with history of Hepatitis C, 
IVDU who presents with ___ days of swelling of his right hand.  
He reports he injected methamphetamine ___ days prior to 
admission. He subsequently developed erythema of his right wrist 
and swelling of his right hand. The redness spread up his 
forearm. He also had significant pain. Per ___ records 
patient endorsed using heroin to manage pain. Patient did not 
endorse this to me. He subsequently developed fevers, chills at 
home and some right armpit pain so he presented to the ED. At 
___, he was noted to be febrile to 101.3. He was 
given Tylenol, vancomycin and Zosyn and was transferred to ___ 
for hand evaluation.

In the emergency department, Vancomycin/Zosyn were continued. 
The patient was seen by hand surgery who performed bedside I and 
D with expression of purulent material. He was admitted to 
medicine for antibiotics.

Currently, he reports he feels OK. He denies fevers or chills. 
Feels very hungry. He complains of severe pain in his right 
hand. Reports the dressing feels tight. He denies nausea or 
vomiting. Denies chest pain. Denies skin lesions on other areas 
of body. No shortness of breath. Able to ambulate and lay flat 
without shortness of breath.
 
Past Medical History:
Hepatitis C- never treated
Polysubstance use
 
Social History:
___
Family History:
Mother- asthma
___ are healthy
 
Physical Exam:
DISCHARGE EXAM
-Vitals: reviewed,  afebrile 
-Gen: Lying in bed in no apparent distress, awake and alert 
-HEENT: atraumatic, normocephalic, PERRL, EOMi, moist mucus 
membranes 
-Cardiac: RRR, no murmur
-Pulm: clear b/l, no wheeze 
-GI: soft, contender, non distended, bowel sounds present 
-GU: no foley, no CVA/supratherapeutic tenderness 
-MSK: R hand wrapped in clean dry ACE bandage.  Slight edema and 
erythema of right fingers with intact sensation and movement. 
-Skin: No rashes or ulcerations evident, multiple tattoos 
-Neuro: CN ___ grossly intact, no focal neurological deficits 
-Psych: calm mood, appropriate affect

 
Pertinent Results:
ADMISSION LABS: 
___ 08:10AM BLOOD WBC-20.0* RBC-4.71 Hgb-14.0 Hct-41.3 
MCV-88 MCH-29.7 MCHC-33.9 RDW-12.5 RDWSD-39.9 Plt ___
___ 08:10AM BLOOD Neuts-83.8* Lymphs-6.6* Monos-7.1 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-16.77* AbsLymp-1.32 
AbsMono-1.42* AbsEos-0.08 AbsBaso-0.07
___ 08:10AM BLOOD Glucose-78 UreaN-10 Creat-0.8 Na-138 
K-4.0 Cl-103 HCO3-18* AnGap-17
___ 08:22AM BLOOD Lactate-1.2

IMAGING:
-----------
XR R Forearm, wrist, hand ___: No acute fracture or 
dislocation.  No radiographic findings to suggest acute 
osteomyelitis.  MRI is more sensitive in detecting acute 
extremity infection. Soft tissue swelling.

XR R Hand IMPRESSION: There is mild radioulnar degenerative 
change.  Otherwise unremarkable right
hand radiographs
 
Brief Hospital Course:
Mr. ___ is a ___ male with h/o hepatitis C and IVDU 
who presented with right hand abscess/cellulitis in setting of 
intravenous drug use. Hand surgery consulted and performed a 
bedside I and D in the ED. Gram stain negative and culture NGTD 
with negative blood cultures.  Patient improved on IV vancomycin 
___ with improvement in cellulitis transitioned to bactrim 
___ to complete a 10 day course.   Patient can take 
acetaminophen and ibuprofen PRN for pain with oxycodone only 
with severe pain; discussed risk of opioid dependence, which 
patient understands.  He was asked to call his PCP on ___ to 
make a follow up within the next week and hand surgery follow up 
in ___ weeks.  Patient instructed to clean his right hand/wrist 
___ timer per day with soap and water, wrap in ACE bandage to 
reduce swelling, and right arm elevation above heart to reduce 
swelling. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe  
RX *oxycodone 5 mg 1 tablet(s) by mouth Q8 hours PRN Disp #*10 
Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID  RX 
*sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth twice a day Disp #*26 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right hand cellulitis and abscess
acute kidney injury 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___, 

You were admitted to the hospital for an infection of your right 
hand due to intravenous drug use. You were seen by the hand 
surgeon who performed an incision and drainage of the abscess.  
You can remove the packing gauze tomorrow.  Please wash your 
wrist/hand ___ times per day.  You can cover the wound with 
gauze and then wrap your hand/arm with ACE bandage to decrease 
swelling.  Also keep your wrist elevated (above the level of 
your heart) as much as possible until swelling resolves.  

You were placed on IV antibiotics with good response and changed 
to oral antibiotics, which you will continue as an outpatient.

You can take up to 4grams of Tylenol and day AND ibuprofen 400mg 
every 6 hours as needed.  Please make sure to take ibuprofen 
with food and not to use for longer than 1 week.  If these 
medications do not control your pain you can use oxycodone.  As 
you know this medication is very addictive and you should use it 
only as needed.    

Please call to make an appointment with your PCP for this week 
and hand surgery within ___ weeks. 

It was a pleasure taking care of you.  
Your ___ team
 
Followup Instructions:
___